US05246935
4-(1-Naphthyl)-1-[3-(1,2,3,4-tetrahydro-5-naphthylcarbamoyloxy)propyl]piperazine, hydrochloride
A mixture of 5-amino-1,2,3,4-tetrahydronaphthalene (300 mg; 2.0 mmol) in toluene (10 ml) and phosgene (10 ml 20% in toluene) was refluxed for 6 h. The solvent was removed under reduced pressure to give crude 1,2,3,4-tetrahydronaphthyl -5-isocyanate. To the crude product was added 3-[4-(1-naphthyl)-1-piperazinyl]propanol (240 mg; 2.0 mmol) in toluene (60 ml) and refluxed for 6 h. The reaction mixture was then concentrated and submitted to flash chromatography on silica gel 60 eluting with dichloromethane graduated to dichloromethane/ethyl acetate (1:1). The product was taken up in ethanol, which was treated with hydrogen chloride in ether to give 340 mg of the title compound. M.p. 227°-229° C. MS (70 eV): m/z 443 (M+,46), 270 (39), 225 (100), 173 (45), 145 (31), 127 (21), 114 (31), 70 (80).

reactant | 5-amino-1,2,3,4-tetrahydronaphthalene | 2.0 mmol, 300 mg | NC1=C2CCCCC2=CC=C1 | C10H13N
reactant | 3-[4-(1-naphthyl)-1-piperazinyl]propanol | 2.0 mmol, 240 mg | C1(=CC=CC2=CC=CC=C12)N1CCN(CC1)CCCO | C17H22N2O
reactant | phosgene | 10 ml | C(=O)(Cl)Cl | CCl2O
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(1-Naphthyl)-1-[3-(1,2,3,4-tetrahydro-5-naphthylcarbamoyloxy)propyl]piperazine, hydrochloride | 340 mg | Cl.C1(=CC=CC2=CC=CC=C12)N1CCN(CC1)CCCOC(NC1=C2CCCCC2=CC=C1)=O | InChI=1S/C28H33N3O2.ClH/c32-28(29-26-14-5-10-22-8-1-3-12-24(22)26)33-21-7-16-30-17-19-31(20-18-30)27-15-6-11-23-9-2-4-13-25(23)27;/h2,4-6,9-11,13-15H,1,3,7-8,12,16-21H2,(H,29,32);1H
